US03946049
5-(p-Benzyloxyphenyl)-2-furamidoxime
A mixture of 30 g (0.11 mole) of 5-(p-benzyloxyphenyl)-2-furonitrile, 8.3 g (0.12 mole) of hydroxylamine hydrochloride, 8 g (0.12 mole) of KOH and 330 ml of absolute ethanol was refluxed for 11/2 hours, cooled in an ice bath and filtered. The solid obtained was recrystallized from 95% ethanol to yield 19 g (56%). An analytical sample was obtained by drying a sample in the vacuum pistol at the temperature of refluxing CHCl3, m.p. 145°-146°.

reactant | 5-(p-benzyloxyphenyl)-2-furonitrile | 0.11 mole, 30 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(O1)C#N | C18H13NO2
reactant | hydroxylamine hydrochloride | 0.12 mole, 8.3 g | Cl.NO
reactant | KOH | 0.12 mole, 8 g | [OH-].[K+]
solvent | ethanol | 330 ml | C(C)O | C2H6O
product | 5-(p-Benzyloxyphenyl)-2-furamidoxime | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(O1)C(N)=NO | C18H16N2O3
